US05834468
3-Bromo-4-(2-phenylethenyl)pyridine (0.74 g, 2.9 mmol) was dissolved in DMF (1.4 ml). The solution was treated with tert-butyl 4-ethynylbenzoate (0.93 g 4.6 mmol), copper (III) iodide (0.023 g, 0.21mmol) and triethylamine (0.64 g, 6.3 mmol). The reaction mixture was degassed by bubbling through argon and the catalyst, bistriphenyl phosphinepalladium dichloride (0.03 g, 0.043 mmol), was added. The reaction was heated to 90°-100° C. for 3 hours and then partitioned between ethyl acetate and water. The organic layer was washed with water (3×), dried (MgSO4) and evaporated. The residue was purified by chromatography (eluting with ethylacetate/hexane) to give tert-butyl 4-[2-(4-(2-phenylethenyl)-3-pyridyl)ethynyl]benzoate as a dark oil (0.36 g, 33%).

reactant | 3-Bromo-4-(2-phenylethenyl)pyridine | 2.9 mmol, 0.74 g | BrC=1C=NC=CC1C=CC1=CC=CC=C1 | C13H10BrN
reactant | tert-butyl 4-ethynylbenzoate | 4.6 mmol, 0.93 g | C(#C)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C13H14O2
reactant | triethylamine | 6.3 mmol, 0.64 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 1.4 ml | CN(C)C=O | C3H7NO
catalyst | copper (III) iodide | 0.21mmol, 0.023 g | [Cu](I)(I)I
product | tert-butyl 4-[2-(4-(2-phenylethenyl)-3-pyridyl)ethynyl]benzoate | 0.36 g, 33% | C1(=CC=CC=C1)C=CC1=C(C=NC=C1)C#CC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C26H23NO2
